US07220759B2
By the reaction in the same manner as in Example 1a, using N,N-dimethyl-2,3-dimethylbenzamide (4.10 g) and 3-(3-hydroxypyrrolidin-1-yl)propionitrile (1.5 g), 3-(2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one (157.5 mg) was obtained.

reactant | N,N-dimethyl-2,3-dimethylbenzamide | 4.10 g | CN(C(C1=C(C(=CC=C1)C)C)=O)C | C11H15NO
reactant | 3-(3-hydroxypyrrolidin-1-yl)propionitrile | 1.5 g | OC1CN(CC1)CCC#N | C7H12N2O
product | 3-(2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one | 157.5 mg | OC1CN(CC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | C16H20N2O2
